US09388160B2
Na (1.4 g, 0.060 mol) was carefully dissolved in 80 ml of anhydrous ethanol to form a clear solution, then N-(3-ethynylphenyl)-7-fluoro-6-nitroquinazolin-4-amine (8 g, 0.025 mol) was added and stirred for 4 hours at 80° C. The solution was concentrated under reduced pressure to remove excess ethanol, and 50 ml H2O was added. The resulting solid precipitate was filtered and dried under vacuum to get 7-ethoxy-N-(3-ethynylphenyl)-6-nitroquinazolin-4-amine as yellow solid 8.1 g (93.4% yield).

reactant | N-(3-ethynylphenyl)-7-fluoro-6-nitroquinazolin-4-amine | 0.025 mol, 8 g | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C16H9FN4O2
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 7-ethoxy-N-(3-ethynylphenyl)-6-nitroquinazolin-4-amine | 8.1 g, 93.4% yield | C(C)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)[N+](=O)[O-] | C18H14N4O3
